US08304419B2
Step C: 2-Ethyl-4-methyl-1H-imidazole-5-carboxylic acid
Lithium hydroxide (2 mL, 2 mmol, 1 M in H2O) was added to a solution of ethyl 2-ethyl-4-methyl-1H-imidazole-5-carboxylate (72 mg, 0.39 mmol) in THF:MeOH (6 mL/2 mL). The reaction mixture was heated at 70° C. for 4 h. The solvent was evaporated and dried in vacuo to give the title compound (61.6 mg, >99%) as a white solid which was directly used in the next step without purification.

reactant | Lithium hydroxide | 2 mmol, 1 M, 2 mL | [OH-].[Li+]
reactant | ethyl 2-ethyl-4-methyl-1H-imidazole-5-carboxylate | 0.39 mmol, 72 mg | C(C)C=1NC(=C(N1)C)C(=O)OCC | C9H14N2O2
reactant | MeOH | 6 mL | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
product | 2-Ethyl-4-methyl-1H-imidazole-5-carboxylic acid | 61.6 mg, >99% | C(C)C=1NC(=C(N1)C)C(=O)O | C7H10N2O2
